US06005104
71.8 g of 1-(2-hydroxy-phenyl)-2-nitro-ethanone O-methyl-oxime are added to a solution of 121 g (0.342 mol) of sodium bicarbonate in 700 ml of water. Within 30 minutes, the mixture is heated to 90-95° C., on which undissolved starting material melts and reacts and the product crystallizes out. The mixture is cooled to 20° C. and the product is filtered off, washed with 500 ml of water a little at a time and air-dried. 57.4 g (91.3% of theory) of benzofuran-2,3-dione 3-(O-methyl-oxime) 2-oxime are obtained as a mixture of two stereoisomers.

reactant | 1-(2-hydroxy-phenyl)-2-nitro-ethanone O-methyl-oxime | 71.8 g | CON=C(C[N+](=O)[O-])C1=C(C=CC=C1)O | C9H10N2O4
reactant | sodium bicarbonate | 0.342 mol, 121 g | C([O-])(O)=O.[Na+]
solvent | water | 700 ml | O | H2O
product | benzofuran-2,3-dione 3-(O-methyl-oxime) 2-oxime | 57.4 g, 91.3% | CON=C1C(OC2=C1C=CC=C2)=NO | C9H8N2O3
